US08809402B2
5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester (200 mg, 0.57 mmol) was dissolved in DMF (3 mL) and 2-benzoxazolinone (270 mg, 2.0 mmol), K3PO4 (424 mg, 2.0 mmol), CuI (15 mg), and 1,2-bis(methylamino)cyclohexane (0.15 mL) were added. The reaction mixture was stirred at 110° C. overnight, then cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was concentrated under reduced pressure and the residue was purified by preparative thin layer chromatography (3:1 hexanes/ethyl acetate) to give 4′-methyl-5-(2-oxo-benzooxazol-3-yl)-biphenyl-3-carboxylic acid methyl ester, which was used directly in the subsequent step.

reactant | 5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 0.57 mmol, 200 mg | COC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C15H13IO2
reactant | 2-benzoxazolinone | 2.0 mmol, 270 mg | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | K3PO4 | 2.0 mmol, 424 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-bis(methylamino)cyclohexane | 0.15 mL | CNC1C(CCCC1)NC | C8H18N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 15 mg | [Cu]I
product | 4′-methyl-5-(2-oxo-benzooxazol-3-yl)-biphenyl-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=C(C1)N1C(OC2=C1C=CC=C2)=O)C2=CC=C(C=C2)C | C22H17NO4
